US04162246
Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]1,2-cyclohexanedicarboxylate (Compound No. 147)
27.0 g of 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione, 14.0 g of bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate and 0.2 g of potassium hydroxide were reacted in 300 ml of methanol, following substantially the same procedure as in Example 1. The desired Compound No. 147 was obtained in the form of white crystals melting at 119°-122° C.

reactant | 7,7,8,9,9-pentamethyl-1,3,8-triazaspiro[4.5]decane-2,4-dione | 27.0 g | CC1(CC2(C(NC(N2)=O)=O)CC(N1C)(C)C)C | C12H21N3O2
reactant | bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate | 14.0 g | O1C(COC(=O)C2C(CCCC2)C(=O)OCC2CO2)C1 | C14H20O6
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | Bis[2-hydroxy-3-(7,7,8,9,9-pentamethyl-2,4-dioxo-1,3,8-triazaspiro[4.5]dec-3-yl)propyl]1,2-cyclohexanedicarboxylate | OC(COC(=O)C1C(CCCC1)C(=O)OCC(CN1C(NC2(C1=O)CC(N(C(C2)(C)C)C)(C)C)=O)O)CN2C(NC1(C2=O)CC(N(C(C1)(C)C)C)(C)C)=O | C38H62N6O10
